US07553840B2
2-Amino-4,6-dichloro pyrimidine (0.074 g, 0.45 mmol), 2,2,2-trifluoro-1-[2-(3-trifluoro methyl-pyrazol-1-yl)-phenyl]-ethanol (0.140 g, 0.45 mmol), and NaH (0.022 g, 0.59 mmol) were added to anhydrous THF (10 ml) under nitrogen atmosphere. The reaction was stirred at 40-45° C. for 6 h, and then cooled to room temperature, and quenched with water (0.2 ml). The reaction mixture was concentrated to give crude 4-chloro-6-[2,2,2-trifluoro-1-[2-(3-trifluoromethyl-pyrazol-1-yl)phenyl]-ethoxy]-pyrimidine-2-ylamine (0.21 g, >90% pure by LCMS), which was directly used in the next step.

reactant | 2-Amino-4,6-dichloro pyrimidine | 0.45 mmol, 0.074 g | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | 2,2,2-trifluoro-1-[2-(3-trifluoro methyl-pyrazol-1-yl)-phenyl]-ethanol | 0.45 mmol, 0.140 g | FC(C(O)C1=C(C=CC=C1)N1N=C(C=C1)C(F)(F)F)(F)F | C12H8F6N2O
reactant | NaH | 0.59 mmol, 0.022 g | [H-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-chloro-6-[2,2,2-trifluoro-1-[2-(3-trifluoromethyl-pyrazol-1-yl)phenyl]-ethoxy]-pyrimidine-2-ylamine | 0.21 g, >90% | ClC1=NC(=NC(=C1)OC(C(F)(F)F)C1=C(C=CC=C1)N1N=C(C=C1)C(F)(F)F)N | C16H10ClF6N5O
